US07253286B2
Ethyl(E)-3-[2-amino-4-(4-nitrophenoxy)-3-pyridyl]-2-propenoate
3-Iodo-4-(4-nitrophenoxy)-2-pyridinamine (500 mg), ethyl acrylate (0.3 ml), palladium (II) acetate (30 mg), tributylamine (0.66 ml) and dimethylformaldehyde (5 ml) were stirred at 130° C. for 20 minutes. After returning the reaction solution to room temperature, water was added and extraction was performed with ethyl acetate. NH type silica gel was added to the extract, the solvent was distilled off under reduced pressure, and there action product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with NH type silica gel, and column purification was performed (hexane:ethyl acetate=3:1). The solvent was distilled off under reduced pressure to obtain 330 mg of the target substance as a yellow oil.

reactant | 3-Iodo-4-(4-nitrophenoxy)-2-pyridinamine | 500 mg | IC=1C(=NC=CC1OC1=CC=C(C=C1)[N+](=O)[O-])N | C11H8IN3O3
reactant | ethyl acrylate | 0.3 ml | C(C=C)(=O)OCC | C5H8O2
reactant | tributylamine | 0.66 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | dimethylformaldehyde | 5 ml | CC(=O)C | C3H6O
catalyst | palladium (II) acetate | 30 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | Ethyl(E)-3-[2-amino-4-(4-nitrophenoxy)-3-pyridyl]-2-propenoate | NC1=NC=CC(=C1/C=C/C(=O)OCC)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H15N3O5
